US07576218B2
In a 25 mL flask was added 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester hydrochloride (1.87 mmol, 1.0 equiv), 453 mg of (4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid (1.87 mmol, 1.00 equiv), 990 mg BOP (2.24 mmol, 1.2 equiv), 1.04 mL TEA (7.46 mmol, 4.00 equiv) and 10 mL NMP. A stir bar was placed in the flask and the reaction mixture was stirred overnight at room temperature under N2 atmosphere. The crude product was purified by normal phase HPLC (EtOAc-hexane as the eluent) to yield 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester: MS (ES) M+H expected=478.1, found=478.3.

reactant | 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester hydrochloride | 1.87 mmol, 1.0 equiv | Cl.COC(=O)C1(CCNCC1)C1=CC=C(C=C1)Cl
reactant | (4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | 1.87 mmol, 453 mg, 1.00 equiv | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
reactant | BOP | 2.24 mmol, 990 mg, 1.2 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester | COC(=O)C1(CCN(CC1)C(CN1N=C(C(=C1C)Cl)C(F)(F)F)=O)C1=CC=C(C=C1)Cl | C20H20Cl2F3N3O3
